US06653471B2
To a mixture of 4-Oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid ethyl ester (2.4 mmol) in 10 mL 1,4-dioxane is added di-tert-butyl dicarbonate (2.9 mmol), followed by a solution of K2CO3 (2.9 mmol) in 5 mL H2O. After stirring at RT for 16 hours 50 mL ethyl acetate and 50 mL H2O are added to the mixture. The organic layer is separated and the aqueous layer is extracted several times with EtOAc. The organic layers are combined, dried over Na2SO4 and evaporated in vacuo yielding 4-Oxo-4,5,6,7-tetrahydro-indole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester, 700 mg, as a dark yellow/brown oil (95%). 1H NMR (CDCl3) 1.38 (t, 3H), 1.62 (s, 9H), 2.11-2.19 (m, 2H), 2.50-2.58 (m, 2H), 3.17 (t, 2H), 4.37 (q, 2H), 7.70 (s, 1H).

reactant | 4-Oxo-4,5,6,7-tetrahydro-1H-indole-3-carboxylic acid ethyl ester | 2.4 mmol | C(C)OC(=O)C1=CNC=2CCCC(C12)=O | C11H13NO3
reactant | di-tert-butyl dicarbonate | 2.9 mmol | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | K2CO3 | 2.9 mmol | C(=O)([O-])[O-].[K+].[K+]
reactant | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
solvent | H2O | 5 mL | O | H2O
solvent | H2O | 50 mL | O | H2O
product | 4-Oxo-4,5,6,7-tetrahydro-indole-1,3-dicarboxylic acid 1-tert-butyl ester 3-ethyl ester | C(C)OC(=O)C1=CN(C=2CCCC(C12)=O)C(=O)OC(C)(C)C | C16H21NO5
